US09359352B2
A mixture of 1-(4-methoxybenzyl)-7-bromo-1,5-naphthyridin-2(1H)-one (C-5) (8.1 g, 23.46 mmol, 1.0 eq), azetidin-3-ol hydrochloride (3.08 g, 28.15 mmol, 1.2 eq), Pd2(dba)3 (429 mg, 0.47 mmol, 0.02 eq), Xantphos (407 mg, 0.7 mmol, 0.03 eq) and Cs2CO3 (19.87 g, 61 mmol, 2.6 eq) in 1,4-dioxane (100 mL) was heated at reflux temperature under argon atmosphere overnight then cooled and filtered, the filter cake was washed with ethyl acetate and the combined filtrate was concentrated in vacuo and the residue was purified by column chromatography on silica gel (1-5% MeOH-DCM) to afford 1-(4-methoxybenzyl)-7-(3-hydroxyazetidin-1-yl)-1,5-naphthyridin-2(1H)-one (C-6) (7.2 g, 91% yield). 1H NMR (300 MHz, DMSO-d6) δ: 7.76 (m, 2H), 7.17 (d, J=8.7 Hz, 2H), 6.84 (d, J=8.7 Hz, 2H), 8.53 (m, 2H), 5.68 (d, J=6.3 Hz, 1H), 5.34 (s, 2H), 4.56 (m, 1H), 4.13 (m, 2H), 3.66 (s, 3H), 3.59 (m, 2H); ESI-MS m/z: 338.1 [M+H]+.

reactant | 1-(4-methoxybenzyl)-7-bromo-1,5-naphthyridin-2(1H)-one | 23.46 mmol, 8.1 g, 1.0 eq | COC1=CC=C(CN2C(C=CC3=NC=C(C=C23)Br)=O)C=C1 | C16H13BrN2O2
reactant | azetidin-3-ol hydrochloride | 28.15 mmol, 3.08 g, 1.2 eq | Cl.N1CC(C1)O
reactant | Cs2CO3 | 61 mmol, 19.87 g, 2.6 eq | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.47 mmol, 429 mg, 0.02 eq | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Xantphos | 0.7 mmol, 407 mg, 0.03 eq | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
product | 1-(4-methoxybenzyl)-7-(3-hydroxyazetidin-1-yl)-1,5-naphthyridin-2(1H)-one | 7.2 g, 91% yield | COC1=CC=C(CN2C(C=CC3=NC=C(C=C23)N2CC(C2)O)=O)C=C1 | C19H19N3O3
